US08791119B2
To a solution cooled to 0° C. of 0.75 g (3.1 mmol) of 6-fluoro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile in 50 ml of dichloromethane are added 1.4 ml (10 mmol) of triethylamine and then 0.37 g (3.7 mmol) of tert-butyl isocyanate (CAS1609-86-5) dropwise. After stirring for 2 hours at room temperature, the medium is poured into water, the organic phase is separated out and dried over sodium sulfate, and the solvent is evaporated off under reduced pressure to give a solid in the form of a green foam, which is purified by chromatography on a column of silica gel, eluting with a mixture of 20 to 50% ethyl acetate in cyclohexane, to give 0.36 g of N-tert-butyl-8-cyano-6-fluoro-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide in the form of an orange-coloured gummy solid.

reactant | 6-fluoro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile | 3.1 mmol, 0.75 g | FC1=C(C(=C2N1CCNC2)C#N)C2=CC=CC=C2 | C14H12FN3
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 3.7 mmol, 0.37 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-tert-butyl-8-cyano-6-fluoro-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | 0.36 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C#N)C2=CC=CC=C2)F | C19H21FN4O
